US05310932
The reaction mixture containing 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-benzopyran (1.5 g, 7.5 mmol) (prepared according to Evans et al., J. Med. Chem., 1983, 26, 1582 and J. Med. Chem., 1986, 29, 2194), 3-cyanoindole (1.46 g, 9.75 mmol) and finely ground potassium carbonate (2.6 g, 18.75 mmol) in dimethylformamide (5.0 mL) was heated at 100° C. for three hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and filtered. The filtrate was washed with water, 1N hydrochloric acid, sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated to yield a colorless solid. This material was purified by flash chromatography (20% ethyl acetate in hexanes) to yield 4-(3-cyano-1H-indol-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (1.45 g) as a colorless solid, m.p. 192°-193° C. (dichloromethaneisopropyl ether): 1H NMR (CDCl3) δ 7.72 (m, 1 H), 7.6 (s, 1 H), 7.40 (dd, J=8.2 and 1.8 Hz, 1 H), 7.25 (m, 2 H), 7.1 (m, 1 H), 6.90 (d, J=8.7 Hz, 1 H), 6.70 (d, J=2.3 Hz, 1 H), 5.88 (s, 1 H), 1.55 (s, 6 H); 13C NMR (CDCl3) 156.8, 135.6, 135.3, 134.9, 134.4, 129.9, 129.5, 127.3, 126.6, 124.8, 123.0, 120.1, 119.0, 118.2, 114.8, 111.3, 104.5, 88.7, 78.6, 27.9 ppm.

reactant | 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-benzopyran | 7.5 mmol, 1.5 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | 3-cyanoindole | 9.75 mmol, 1.46 g | C(#N)C1=CNC2=CC=CC=C12 | C9H6N2
reactant | potassium carbonate | 18.75 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-cyano-1H-indol-1-yl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 1.45 g | C(#N)C1=CN(C2=CC=CC=C12)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C21H15N3O
